US06329402B1
1-Isopropyl-1,2,3,4-tetrahydroquinoline-2-carbaldehyde
Phosphorus oxychloride (18.6 g) was added dropwise to 29.2 g of N,N-dimethylformamide under ice cooling. The resulting mixture was stirred at room temperature for 30 minutes, followed by the dropwise addition of 17.5 g of 1-isopropyl-1,2,3,4-tetrahydroquinoline slowly under ice cooling. After stirring at room temperature for one hour, the reaction mixture was poured into ice water, neutralized with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue so obtained was subjected to chromatography on a silica gel column (developing solvent: 10% ethyl acetate/n-hexane), whereby 11.4 g of the title compound were obtained as a reddish brown oil.

reactant | Phosphorus oxychloride | 18.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 29.2 g | CN(C=O)C | C3H7NO
reactant | 1-isopropyl-1,2,3,4-tetrahydroquinoline | 17.5 g | C(C)(C)N1CCCC2=CC=CC=C12 | C12H17N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | 1-Isopropyl-1,2,3,4-tetrahydroquinoline-2-carbaldehyde | 11.4 g | C(C)(C)N1C(CCC2=CC=CC=C12)C=O | C13H17NO
